US04312998
N-(3-Dimethylaminopropyl) acrylamide
320.4 g (2.0 mols) dihydracrylic acid amide are heated with 429.2 g (4.2 mols) 3-dimethylaminopropylamine and 4 ml acetic acid for a period of 8 hours over a temperature span of 135° to 160° C. until ammonia generation is ended. 4.5 g orthophosphoric acid and 9.0 g polyphosphoric acid are added and 534 g liquid distilled at bp10 =142° to 152° C. Upon re-distillation, after a fore-run of 36 gm water there are obtained 398 g (2.6 mols=64% of the theory) of product with bp0.1 =102° to 104° C.

reactant | dihydracrylic acid amide | 2.0 mols, 320.4 g | C(CCO)(=O)N.C(CCO)(=O)N | 2C3H7NO2
reactant | 3-dimethylaminopropylamine | 4.2 mols, 429.2 g | CN(CCCN)C | C5H14N2
reactant | ammonia | N | H3N
reactant | orthophosphoric acid | 4.5 g | P(O)(O)(O)=O | H3O4P
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
product | N-(3-Dimethylaminopropyl) acrylamide | CN(CCCNC(C=C)=O)C | C8H16N2O
